US04481142
9-chloro-7-(2-chlorophenyl)-2-isopropyl-5H-pyrimido[5,4-d][2]benzazepine
A mixture of 3.5 g (10 mmole) of 1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one, 4.8 g (40 mmole) of isobutyramidine hydrochloride, 10 ml (41 mmole) of a 4.12 M methanol solution of sodium methoxide and 100 ml of methanol was stirred at room temperature for 2 hr. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a yellow oil. Crystallization of the oil with ether gave a light yellow solid, mp 127°-129° C. Recrystallization from a mixture of ether and petroleum ether gave colorless rods, mp 127°-129° C.

reactant | 1-(2-chlorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | 10 mmole, 3.5 g | ClC1=C(C=CC=C1)C1=NCC(C(C2=C1C=CC=C2)=O)=CN(C)C | C19H17ClN2O
reactant | isobutyramidine hydrochloride | 40 mmole, 4.8 g | Cl.C(C(C)C)(=N)N
reactant | methanol | 4.12 M | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
product | 9-chloro-7-(2-chlorophenyl)-2-isopropyl-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)C(C)C)C=C1 | C21H17Cl2N3
